US03941785
2-Amino-7-isopropyl-5-methylimidazo[5,1-f]-as-triazin-4-one N-[1-(3-Amino-2-benzyl-2,5-dihydro-5-oxo-as-triazin-6-yl) ethyl]isobutyramide
In a similar way N-[1-(3-Amino-2-benzyl-2,5-dihydro-5-oxo-as-triazin-6-yl)ethyl]isovaleramide m.p. 149.5° was prepared from 3-amino-1-benzyl-6(1-aminoethyl)-as-triazin-5-one and isovaleric anhydride.

reactant | N-[1-(3-Amino-2-benzyl-2,5-dihydro-5-oxo-as-triazin-6-yl)ethyl]isovaleramide | NC=1N(N=C(C(N1)=O)C(C)NC(CC(C)C)=O)CC1=CC=CC=C1 | C17H23N5O2
reactant | 3-amino-1-benzyl-6(1-aminoethyl)-as-triazin-5-one | NC=1NN(C(C(N1)=O)C(C)N)CC1=CC=CC=C1 | C12H17N5O
reactant | isovaleric anhydride | C(CC(C)C)(=O)OC(CC(C)C)=O | C10H18O3
product | 2-Amino-7-isopropyl-5-methylimidazo[5,1-f]-as-triazin-4-one N-[1-(3-Amino-2-benzyl-2,5-dihydro-5-oxo-as-triazin-6-yl) ethyl]isobutyramide | NC=1N(N=C(C(N1)=O)C(C)NC(C(C)C)=O)CC1=CC=CC=C1.NC=1NN2C(C(N1)=O)=C(N=C2C(C)C)C | InChI=1S/C16H21N5O2.C9H13N5O/c1-10(2)14(22)18-11(3)13-15(23)19-16(17)21(20-13)9-12-7-5-4-6-8-12;1-4(2)7-11-5(3)6-8(15)12-9(10)13-14(6)7/h4-8,10-11H,9H2,1-3H3,(H,18,22)(H2,17,19,23);4H,1-3H3,(H3,10,12,13,15)
